US06667316B1
A mixture of 4-amino-4-(3-ethoxy-4-methoxyphenyl)butan-2-ol hydrochloride (0.5 g, 1.81 mmol), 3-acetamidophthalic anhydride (0.37 g, 1.81 mmol) and triethylamine (0.18 g, 1.81 mmol) in dimethylformamide (10 mL) was heated at 80-90° C. for 7 hours. The mixture was concentrated in vacuo to an oil. The oil was dissolved in ethyl acetate, washed with water, brine, dried, filtered and concentrated to an oil. This oil was purified by chromatography (silica gel, methylene chloride/ethyl acetate 8:2) to give N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide as a white solid (0.5 g, 65%); mp 132-134° C.; 1H NMR (CDCl3) δ9.54 (s, 1H), 8.73 (d, J=8.4 Hz, 1H), 7.62 (t, J=7.4 Hz, 1H), 7.46 d, J=7.3 Hz, 1H), 7.12-7.08 (m, 2H), 6.83 (d, J=8.0 Hz, 1H), 5.46 (t, J=7.8 Hz, 1H), 4.12 (q, J=7.1 Hz, 2H), 3.84 (s, 3H), 3.80 (m, 1H), 2.59-2.42 (m, 2H), 2.25 (s, 3H), 1.65 (s, 1H), 1.45 (t, J=7.0 Hz, 3H), 1.27 (d, J=6.3 Hz, 3H); 13C NMR (CDCl3) δ170.36, 169.20, 167.96, 149.04, 148.26, 137.29, 135.70, 131.50, 131.35, 124.60, 120.61, 117.85, 113.10, 111.25, 66.00, 64.39, 55.89, 52.43, 40.19, 24.92, 24.33, 14.73; Anal. Calcd. For C23H26N2O6: C, 64.78; H, 6.15; N, 6.57. Found: C, 64.86; H, 6.10; N, 6.46.

reactant | 4-amino-4-(3-ethoxy-4-methoxyphenyl)butan-2-ol hydrochloride | 1.81 mmol, 0.5 g | Cl.NC(CC(C)O)C1=CC(=C(C=C1)OC)OCC
reactant | 3-acetamidophthalic anhydride | 1.81 mmol, 0.37 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
reactant | triethylamine | 1.81 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide | 0.5 g, 65% | C(C)OC=1C=C(C=CC1OC)C(CC(C)O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C23H26N2O6
